US08133909B2
(5-Bromo-2-chloro-benzyloxy)-tert-butyl-dimethyl-silane
To a solution of 5-bromo-2-chlorobenzyl alcohol (3.00 g, 13.6 mmol) in DMF (10 ml) was added under a nitrogen atmosphere imidazole (2.89 g, 42.0 mmol). After cooling to 0° C. tert-butyldimethylchlorsilan (3.37 g, 22.3 mmol) was added and the reaction mixture was stirred for 18 h in a thawing ice bath. It was diluted with water (20 ml) and extracted with EtOAc (20 ml). The aqueous layer was extracted with ethyl acetate (20 ml) and the organic layers were washed with water (20 ml) and brine (20 ml) and were dried over sodium sulfate. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 80:20) afforded the title compound (4.35 g, 96%) as a colorless liquid. MS m/e: 279.0 [M−tBu]+.

reactant | 5-bromo-2-chlorobenzyl alcohol | 13.6 mmol, 3.00 g | BrC=1C=CC(=C(CO)C1)Cl | C7H6BrClO
reactant | imidazole | 42.0 mmol, 2.89 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorsilan | 22.3 mmol, 3.37 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | (5-Bromo-2-chloro-benzyloxy)-tert-butyl-dimethyl-silane | 4.35 g, 96% | BrC=1C=CC(=C(CO[Si](C)(C)C(C)(C)C)C1)Cl | C13H20BrClOSi
